US07338959B2
N2-Isopropyl-N5,1-dimethyl-N5-[2-({4-[(methylsulfonyl)methyl]phenyl}amino) pyrimidin-4-yl]-1H-benzimidazole-2,5-diamine hydrochloride
To a solution of N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine (83 mg, 0.25 mmol) and 1-(4-aminophenyl)methane-sulfonamide (47 mg, 0.25 mmol) in ethanol (2.5 ml) was added a solution of HCl (0.25 ml, 1M in diethyl ether) and the reaction was heated to 70° C. After 20 hours, the reaction mixture was neutralized with the addition of solid NaHCO3. The mixture was filtered and the filtrate was purified with silica gel to give the title compound as a white solid. 1H NMR (300 MHz, d6-DMSO) δ 9.16 (s, 1H), 7.78 (m, 3H), 7.19 (d, J=8.1 Hz, 3H), 7.09 (d, J=1.8 Hz, 1H), 6.82 (dd, J=8.1 and 1.8 Hz, 1H), 6.75 (s, 2H), 6.49 (d, J=7.8 Hz, 1H), 5.62 (d, J=6.0 Hz, 1H), 4.15 (s, 2H), 4.02 (m, 1H), 3.51 (s, 3H), 3.44 (s, 3H), 1.24 (d, J=6.6 Hz, 6H) ppm. MS (ESI) m/z=481 [M+H]+.

reactant | N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine | 0.25 mmol, 83 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C)C)C=C1)C | C16H19ClN6
reactant | 1-(4-aminophenyl)methane-sulfonamide | 0.25 mmol, 47 mg | NC1=CC=C(C=C1)CS(=O)(=O)N | C7H10N2O2S
reactant | HCl | 1M, 0.25 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | N2-Isopropyl-N5,1-dimethyl-N5-[2-({4-[(methylsulfonyl)methyl]phenyl}amino) pyrimidin-4-yl]-1H-benzimidazole-2,5-diamine hydrochloride | Cl.C(C)(C)NC1=NC2=C(N1C)C=CC(=C2)N(C2=NC(=NC=C2)NC2=CC=C(C=C2)CS(=O)(=O)C)C | InChI=1S/C24H29N7O2S.ClH/c1-16(2)26-24-28-20-14-19(10-11-21(20)31(24)4)30(3)22-12-13-25-23(29-22)27-18-8-6-17(7-9-18)15-34(5,32)33;/h6-14,16H,15H2,1-5H3,(H,26,28)(H,25,27,29);1H
